US06051712
A solution of 116 mg (0.20 mmol) of tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylate in 1.5 ml of methanol was treated with 24 mg (0.1 mmol) of nickel(II) chloride hexahydrate and 30 mg (0.8 mmol) of sodium borohydride. The dark suspension was stirred at 0° C. for 1 hour and at room temperature for a further hour. For the working-up, the mixture was partitioned between 20 ml of ether and 5 ml of aqueous saturated ammonium chloride solution and then the organic phase was separated. The aqueous phase was extracted three times with 20 ml of ether each time. The combined ether phases were dried over magnesium sulphate and finally the solvent was distilled off under reduced pressure. The crude product (150 mg) was purified by chromatography on silica gel with a 1:1 mixture of ethyl acetate and hexane as the eluent. There were obtained 70 mg (60% of theory) of tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylate as a light yellow resin; MS: 587 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylate | 0.20 mmol, 116 mg | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2C=CC=NC2=C1 | C36H42N2O5
reactant | sodium borohydride | 0.8 mmol, 30 mg | [BH4-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 0.1 mmol, 24 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylate | 70 mg, 60% | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2CCCNC2=C1 | C36H46N2O5
